US08710236B2
A mixture of 4-[2-(4-benzofuran-2yl-phenylcarbamoyl)-2-(4-bromo-phenyl)-ethyl]-benzoic acid methyl ester (0.4 g, 0.74 mmol), cyclohexen-2-ylboronic acid (0.23 g, 1.85 mmol), PdCl2 (o-tolylphosphine) (75 mg, 0.096 mmol), and Na2CO3 (390 mg, 3.70 mmol) in DME/EtOH/H2O (4:2:1) (17.5 mL) was heated in an oil bath at 130° C. for 2 h, cooled to rt, filtered and washed with EtOAc (20 mL). The solvent was removed under reduced pressure. The crude mixture was extracted with ethyl acetate (100 mL) and the organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The resulting crude was purified by column chromatography on silica gel, eluting with ethyl acetate:hexanes (3:2) to afford 4-[2-(4-benzofuran-2-yl-phenylcarbamoyl)-2-(4-cyclohex-1-enyl-phenyl)-ethyl]-benzoic acid methyl ester as a white solid (0.42 g). 1H NMR (300 MHz, CDCl3): δ 10.23 (s, 1H), 7.81 (d, J=8.4 Hz, 2H), 7.54-7.65 (m, 4H), 7.21-7.34 (m, 8H), 6.10 (bt, 1H), 4.02 (m, 1H), 3.78 (s, 3H), 3.45 (dd, J=8.7, 13.5 Hz, 1H), 3.04 (dd, J=6.6, 13.5 Hz, 1H), 2.25-2.40 (m, 2H), 2.10-2.20 (m, 2H), 1.64-1.72 (m, 2H), 1.54-1.59 (m, 2H); LC-MS m/z=556 [C37H33NO4+H]+; TLC conditions: Uniplate silica gel, 250 microns; mobile phase=ethyl acetate/hexanes (2:1); Rf=0.45.

reactant | 4-[2-(4-benzofuran-2yl-phenylcarbamoyl)-2-(4-bromo-phenyl)-ethyl]-benzoic acid methyl ester | 0.74 mmol, 0.4 g | COC(C1=CC=C(C=C1)CC(C1=CC=C(C=C1)Br)C(N(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O)=O | C31H24BrNO4
reactant | cyclohexen-2-ylboronic acid | 1.85 mmol, 0.23 g | C1=C(CCCC1)B(O)O | C6H11BO2
reactant | Na2CO3 | 3.70 mmol, 390 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME EtOH H2O | 17.5 mL | COCCOC.CCO.O
catalyst | PdCl2 | 0.096 mmol, 75 mg | Cl[Pd]Cl
product | 4-[2-(4-benzofuran-2-yl-phenylcarbamoyl)-2-(4-cyclohex-1-enyl-phenyl)-ethyl]-benzoic acid methyl ester | 0.42 g | COC(C1=CC=C(C=C1)CC(C1=CC=C(C=C1)C1=CCCCC1)C(N(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O)=O | C37H33NO4
